US06602515B2
Monodemethylation of 3,4,5-trimethoxy benzaldehyde using sulphuric acid at 40° C. for 8 hours yields 3,5-Dimethoxy-4-hydroxy benzaldehyde (Syringaldehyde). Condensation of syringaldehyde with ethyl cyanoacetate in the presence of piperidine—acetic acid and benzene as the reaction medium at reflux temperature under continuous azeotropic water removal yields the title product. The reaction takes about 1.5 hours for completion. The yield obtained is typically 95%.

reactant | 3,4,5-trimethoxy benzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,5-Dimethoxy-4-hydroxy benzaldehyde | COC=1C=C(C=O)C=C(C1O)OC | C9H10O4
